US04341792
N-Benzyloxycarbonyl-α-hydroxyglycine (10.4 g., 0.046 mole) was added to a stirred mixture of concentrated sulfuric acid (4 ml.) and glacial acetic acid (36 ml.) at 0°-5° C. followed, after five minutes, by the dropwise addition of 2,3-dihydrobenzo(b)furan (5.8 g., 0.048 mole). The reaction mixture was stirred at ambient temperature overnight and the resulting pale mauve emulsion poured into stirred ice and water to afford a gum, which was induced to solidify. The crude product was collected, washed with water, dried in vacuo, and crystallized from a mixture of ethyl acetate and petroleum ether (b.p. 60°-80° C.) to provide Dl-α-benzyloxycarbonylamino-2,3-dihydro-5-benzo(b)furanyl acetic acid (5.3 g.), m.p. 121°-123° C. Recrystallization of a sample raised the m.p. to 125°-126° C.

reactant | N-Benzyloxycarbonyl-α-hydroxyglycine | 0.046 mole, 10.4 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)O | C10H11NO5
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | 36 ml | C(C)(=O)O | C2H4O2
reactant | 2,3-dihydrobenzo(b)furan | 0.048 mole, 5.8 g | O1C2=C(CC1)C=CC=C2 | C8H8O
solvent | water | O | H2O
product | α-benzyloxycarbonylamino-2,3-dihydro-5-benzo(b)furanyl acetic acid | 5.3 g | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)C1=CC2=C(OCC2)C=C1 | C18H17NO5
